US08389524B2
(d) 2-Chloro-1H-pyrimido[5,4-b][1,4]thiazin-7(6H)-one
A suspension of ethyl[(4-amino-2-chloro-5-pyrimidinyl)thio]acetate (0.786 g, 3.17 mmol) in ethanol (50 ml) was heated to 70° C. Cesium carbonate (1.034 g, 3.17 mmol) was added and the solution was heated for a further 5 minutes. A white solid precipitated out of solution almost immediately. The solution was concentrated under reduced pressure. The residue was dissolved in water and brought to pH=5 with 1N HCl. The aqueous layer was extracted with CH2Cl2 (2×). The organic layers were combined, dried over Na2SO4, filtered, and concentrated under reduced pressure to yield a light yellow solid.

reactant | ethyl[(4-amino-2-chloro-5-pyrimidinyl)thio]acetate | 3.17 mmol, 0.786 g | C(C)OC(CSC=1C(=NC(=NC1)Cl)N)=O | C8H10ClN3O2S
reactant | Cesium carbonate | 3.17 mmol, 1.034 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 2-Chloro-1H-pyrimido[5,4-b][1,4]thiazin-7(6H)-one | ClC1=NC=C2SCC(N=C2N1)=O | C6H4ClN3OS
